US05156763
1-Butoxy-3,5-difluorobenzene (16)
A solution of 1-bromobutane (11.0 g, 0.08 mol) in acetone (30 ml) was added dropwise to a stirred, refluxing mixture of 3,5-difluorophenol (9.1 g, 0.07 mol) and potassium carbonate (30 g, 0.2 mol) in acetone (200 ml). The stirred mixture was heated under reflux for 24 h (glc analysis revealed absence of starting material). The product was extracted into ether (twice), and the combined ethereal extracts were washed with water, 5% sodium hydroxide, water and dried (MgSO4). Most of the solvent was removed in vacuo, and after the removal of the final amount of solvent and the excess of 1-bromobutane at atmospheric pressure, the residue was distilled to yield a colourless liquid.

reactant | 1-bromobutane | 0.08 mol, 11.0 g | BrCCCC | C4H9Br
reactant | 3,5-difluorophenol | 0.07 mol, 9.1 g | FC=1C=C(C=C(C1)F)O | C6H4F2O
reactant | potassium carbonate | 0.2 mol, 30 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 1-Butoxy-3,5-difluorobenzene | C(CCC)OC1=CC(=CC(=C1)F)F | C10H12F2O
